US05574042
To a stirred solution of 3-nitro-N-(3-pyridylmethyl)benzamide (2.00 g) in tetrahydrofuran (40 ml) was added potassium tert-butoxide (917 mg) in one portion in an ice-cooled bath. The stirring was continued for 40 minutes and then iodomethane (0.53 ml) was added thereto. The reaction mixture was stirred at 0° C. for one hour, then at ambient temperature for five hours. Saturated sodium bicarbonate solution was added thereto and the-mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated sodium chloride solution. After dried over anhydrous magnesium sulfate and filtered, the solvent was removed in vacuo and the residue was purified by flash chromatography (methanol-chloroform 3%, V/V) to afford 3-nitro-N-methyl-N-(3-pyridylmethyl)benzamide (1.8 g) as an yellow oil.

reactant | 3-nitro-N-(3-pyridylmethyl)benzamide | 2.00 g | [N+](=O)([O-])C=1C=C(C(=O)NCC=2C=NC=CC2)C=CC1 | C13H11N3O3
reactant | potassium tert-butoxide | 917 mg | CC(C)([O-])C.[K+]
reactant | iodomethane | 0.53 ml | IC | CH3I
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-nitro-N-methyl-N-(3-pyridylmethyl)benzamide | 1.8 g | [N+](=O)([O-])C=1C=C(C(=O)N(CC=2C=NC=CC2)C)C=CC1 | C14H13N3O3
